US06323235B1
3-azidomethyl-7-methoxybenzofuran
3-bromomethyl-7-methoxybenzofuran (565 mg) and sodium azide (230 mg) were dissolved in methanol-water (5:1, 10 ml) and the solution was refluxed for 1 hour. After cooling the reaction solution to room temperature, the reaction solution was poured into water layer (30 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying the resultant over sodium sulfate. After removing sodium sulfate, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=9/1) using silica gel to obtain the desired compound (452 mg, yield: 95%).

reactant | 3-bromomethyl-7-methoxybenzofuran | 565 mg | BrCC1=COC2=C1C=CC=C2OC | C10H9BrO2
reactant | sodium azide | 230 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | methanol water | 10 ml | CO.O
product | 3-azidomethyl-7-methoxybenzofuran | 452 mg, yield: 95% | N(=[N+]=[N-])CC1=COC2=C1C=CC=C2OC | C10H9N3O2
